US07652022B2
Stage 21.2: 4-Chloro-6-(4-nitro-phenoxy)-pyrimidine
4-Nitrophenol (2.8 g, 20.1 mmol), 2,4-dichloro-pyrimidine (3 g, 20.1 mmol), NaOH (0.8 g, 20.1 mmol) dissolved in H2O/acetone (80 ml; 1:1) are stirred at 60-65° C. for 1 h. The reaction solution is concentrated under reduced pressure and flash chromatographed (silica gel, 4.5×22 cm, AcOEt/hexane=1:4) to give the title compound of Stage 21.2 as a colorless solid: M+H=252/254; 1H-NMR (400 MHz, DMSO-d6): 8.67 (s, 1H, pyrimidinyl), 8.34 (d, 9 Hz, 2H, phenyl), 7.58 (d, 9 Hz, 2H, phenyl), 7.53 (s, 1H, pyrimidinyl); Rf (AcOEt/hexane=1:1): 0.16; m.p.=125.4-126.6° C.

reactant | 4-Nitrophenol | 20.1 mmol, 2.8 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 2,4-dichloro-pyrimidine | 20.1 mmol, 3 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | NaOH | 20.1 mmol, 0.8 g | [OH-].[Na+]
solvent | H2O acetone | 80 ml | O.CC(=O)C
product | 4-Chloro-6-(4-nitro-phenoxy)-pyrimidine | ClC1=NC=NC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C10H6ClN3O3
